US04112095
Preparation of 3-propyl-6-(α,α,α-trifluoro-p-tolyl)-1,2,4-triazolo-[4,3-b]pyridazine
A mixture of 5.0 g of 3-chloro-6-(α,α, α-trifluoro-p-tolyl)pyridazine, 3.94 g. of butyric acid hydrazide and 100 ml. of n-butanol is refluxed for 48 hr. The solvent is removed under vacuum and the residue dissolved in chloroform. The solution is passed through a column of hydrous magnesium silicate and the eluent concentrated to give 3.2 g. of product Recrystallization from CHCl3 -hexane gives crystals, m.p. 173°-175° C.

reactant | 3-chloro-6-(α,α, α-trifluoro-p-tolyl)pyridazine | 5.0 g | ClC=1N=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | butyric acid hydrazide | C(CCC)(=O)NN | C4H10N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-propyl-6-(α,α,α-trifluoro-p-tolyl)-1,2,4-triazolo-[4,3-b]pyridazine | C(CC)C1=NN=C2N1N=C(C=C2)C2=CC=C(C=C2)C(F)(F)F | C15H13F3N4
